US09447090B2
To a solution of 650 mg of tert-butyl (2E)-3-(3-formyl-2-thienyl)acrylate in 15 ml of methanol was added 150 mg of 10% palladium-carbon, followed by stirring for 5 hours under a hydrogen atmosphere. After filtration through Celite, the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 530 mg of tert-butyl 3-(3-formyl-2-thienyl)propanoate.

reactant | tert-butyl (2E)-3-(3-formyl-2-thienyl)acrylate | 650 mg | C(=O)C1=C(SC=C1)/C=C/C(=O)OC(C)(C)C | C12H14O3S
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium-carbon | 150 mg | [C].[Pd]
product | tert-butyl 3-(3-formyl-2-thienyl)propanoate | 530 mg | C(=O)C1=C(SC=C1)CCC(=O)OC(C)(C)C | C12H16O3S
